US04788185
7β-[2-(2-Aminothiazol-4-yl)-2(Z)-isopropoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid
Starting from 2-(2-aminothiazol-4-yl)-2(Z)-isopropoxyiminoacetic acid and 7β-amino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid, the titled compound is obtained by the procedure of Reference Example 3.

reactant | 2-(2-aminothiazol-4-yl)-2(Z)-isopropoxyiminoacetic acid | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)C | C8H11N3O3S
reactant | 7β-amino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C12H14N2O6S
product | 7β-[2-(2-Aminothiazol-4-yl)-2(Z)-isopropoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OC(C)C | C20H23N5O8S2
